### PR TITLE
[Merged by Bors] - chore(IntegrableOn): generalise one more section to enorms

### PR DESCRIPTION
**Pull request by grunweg**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/IntegrableOn.lean [hunk 1]
```diff
@@ -714,77 +714,87 @@ the unprimed ones use `[NoAtoms μ]`.
...
 section PartialOrder
 
-variable [PartialOrder α] [MeasurableSingletonClass α] {f : α → E} {μ : Measure α} {a b : α}
+variable [PartialOrder α] [MeasurableSingletonClass α]
+  [TopologicalSpace ε'] [ENormedAddMonoid ε'] [PseudoMetrizableSpace ε']
+  {f : α → ε'} {μ : Measure α} {a b : α}
 
-theorem integrableOn_Icc_iff_integrableOn_Ioc' (ha : μ {a} ≠ ∞) :
+theorem integrableOn_Icc_iff_integrableOn_Ioc'
+    (ha : μ {a} ≠ ∞) (ha' : ‖f a‖ₑ ≠ ∞ := by finiteness) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntegrableOn.lean]:
```suggestion
    (ha : μ {a} ≠ ∞ := by finiteness) (ha' : ‖f a‖ₑ ≠ ∞ := by finiteness) :
```
?

Comment (grunweg) [reply Mathlib/MeasureTheory/Integral/IntegrableOn.lean]: Sure, I'm happy to add --- my reasoning was that this is change is orthogonal to this PR, so should perhaps be done separately. (I'm only adding default parameters for *new* conditions that are required.)

Comment (YaelDillies) [reply Mathlib/MeasureTheory/Integral/IntegrableOn.lean]: I think we should add

File: Mathlib/Analysis/MellinTransform.lean [hunk 2]
```diff
@@ -230,7 +230,7 @@ theorem mellin_convergent_zero_of_isBigO {b : ℝ} {f : ℝ → ℝ}
   obtain ⟨d, _, hd'⟩ := hf.exists_pos
   simp_rw [IsBigOWith, eventually_nhdsWithin_iff, Metric.eventually_nhds_iff, gt_iff_lt] at hd'
   obtain ⟨ε, hε, hε'⟩ := hd'
-  refine ⟨ε, hε, integrableOn_Ioc_iff_integrableOn_Ioo.mpr ⟨?_, ?_⟩⟩
+  refine ⟨ε, hε, integrableOn_Ioc_iff_integrableOn_Ioo (by finiteness) |>.mpr ⟨?_, ?_⟩⟩
```
Comment (YaelDillies) [inline Mathlib/Analysis/MellinTransform.lean]: Does
```suggestion
  refine ⟨ε, hε, integrableOn_Ioc_iff_integrableOn_Ioo |>.mpr ⟨?_, ?_⟩⟩
```
or
```suggestion
  refine ⟨ε, hε, Iff.mpr integrableOn_Ioc_iff_integrableOn_Ioo ⟨?_, ?_⟩⟩
```
do the trick?

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/Basic.lean [hunk 3]
```diff
@@ -452,22 +476,24 @@ lemma intervalIntegrable_of_even₀ (h₁f : ∀ x, f x = f (-x))
...
 See `intervalIntegrable_of_odd` for a stronger result. -/
-lemma intervalIntegrable_of_odd₀
-    (h₁f : ∀ x, -f x = f (-x)) (h₂f : ∀ x, 0 < x → IntervalIntegrable f volume 0 x) (t : ℝ) :
+lemma intervalIntegrable_of_odd₀ (h₁f : ∀ x, -f x = f (-x))
+    (h₂f : ∀ x, 0 < x → IntervalIntegrable f volume 0 x) {t : ℝ}
+    (ht : ‖f (min 0 t)‖ₑ ≠ ∞ := by finiteness) :
     IntervalIntegrable f volume 0 t := by
   rcases lt_trichotomy t 0 with h | h | h
-  · rw [IntervalIntegrable.iff_comp_neg]
+  · rw [IntervalIntegrable.iff_comp_neg ht]
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/Basic.lean]: Do you really to provide this?

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/Periodic.lean [hunk 4]
```diff
@@ -272,7 +273,7 @@ over every interval if it is interval integrable over the period starting from z
 theorem intervalIntegrable₀ (h₁f : Function.Periodic f T) (hT : 0 < T)
     (h₂f : IntervalIntegrable f MeasureTheory.volume 0 T) (a₁ a₂ : ℝ) :
     IntervalIntegrable f MeasureTheory.volume a₁ a₂ := by
-  apply h₁f.intervalIntegrable hT (t := 0)
+  apply h₁f.intervalIntegrable hT (t := 0) (by simp)
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/Periodic.lean]: Does this work?
```suggestion
  apply h₁f.intervalIntegrable hT (t := 0)
```

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer delegate

File: Mathlib/Analysis/MellinTransform.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Analysis/MellinTransform.lean]: The second one works, thanks!

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/Periodic.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Integral/IntervalIntegral/Periodic.lean]: Oh you might need to use `refine`

Comment (grunweg) [reply Mathlib/MeasureTheory/Integral/IntervalIntegral/Periodic.lean]: I added one more auto-parameter; now it works.

File: Mathlib/MeasureTheory/Integral/IntegrableOn.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/MeasureTheory/Integral/IntegrableOn.lean]: Sure, added now

**Comment by grunweg** [comment]
Thanks for the review! I have addressed all comments now.

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/FundThmCalculus.lean [hunk 5]
```diff
@@ -1116,7 +1116,7 @@ theorem integral_eq_sub_of_hasDeriv_right_of_le (hab : a ≤ b) (hcont : Continu
   rw [← g.intervalIntegral_comp_comm f'int, g.map_sub]
   exact integral_eq_sub_of_hasDeriv_right_of_le_real hab (g.continuous.comp_continuousOn hcont)
     (fun x hx => g.hasFDerivAt.comp_hasDerivWithinAt x (hderiv x hx))
-    (g.integrable_comp ((intervalIntegrable_iff_integrableOn_Icc_of_le hab).1 f'int))
+    (g.integrable_comp ((intervalIntegrable_iff_integrableOn_Icc_of_le hab (enorm_ne_top)).1 f'int))
```
Comment (Parcly-Taxel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/FundThmCalculus.lean]:
```suggestion
    (g.integrable_comp ((intervalIntegrable_iff_integrableOn_Icc_of_le hab enorm_ne_top).1 f'int))
```

**Comment by sgouezel** [comment]
bors r+
Thanks!
